US07173027B2
1-(N-Methyl-2-piperidinyl)methyl-3-(1-adamantanecarbonyl)-1H-indole
To the stirring solution of the diethyl aluminum chloride (1.5 ml 1 M soln. in hexane, 180.8 mg, 1.5 mmol) in 10 ml absolute methylene chloride was added at room temp. 298.0 mg (1.5 mmol) 1-adamantanecarbonyl chloride in 5 ml of methylene chloride and the reaction mixture was stirred 15 min. The solution of (N-Methyl-2-piperidinyl)methyl-1H-indole (228.3 mg, 1.0 mmol) in 5 ml of methylene chloride was added during 3 min and mixture was stirred and reflux 48 h. The reaction was work-up by addition of 20 ml 2M solution of sodium hydroxide and extracted by ethyl acetate (3×20 ml), washed to times by water and two times by brine. The combined extract dried by the mixture of sodium sulfate and potassium carbonate. After removing of solvents the rest was purified by chromatography (silica gel, methanol ethyl acetate 1:1).

reactant | diethyl aluminum chloride | [Cl-].C(C)[Al+]CC
reactant | 1-adamantanecarbonyl chloride | 1.5 mmol, 298.0 mg | C12(CC3CC(CC(C1)C3)C2)C(=O)Cl | C11H15ClO
reactant | (N-Methyl-2-piperidinyl)methyl-1H-indole | 1.0 mmol, 228.3 mg | CN1C(CCCC1)CN1C=CC2=CC=CC=C12 | C15H20N2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hexane | CCCCCC | C6H14
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 1-(N-Methyl-2-piperidinyl)methyl-3-(1-adamantanecarbonyl)-1H-indole | CN1C(CCCC1)CN1C=C(C2=CC=CC=C12)C(=O)C12CC3CC(CC(C1)C3)C2 | C26H34N2O
